US08685980B2
A mixture of 5-Morpholin-4-yl-pyridin-2-ylamine (0.61 g, 3.4 mmol; prepared using methods similar to those described in Example A and Example B), 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (1.00 g, 3.4 mmol), BINAP (106 mg, 0.17 mmol), palladium(II) acetate (38 mg, 0.17 mmol) and cesium carbonate (1.6 g, 4.9 mmol) in dioxan (20 mL) is heated to 110° C. for 6 h. After cooling to room temperature, heptane (30 mL) is added and the mixture is stirred for 1 h. The resulting suspension is filtered and the filtercake is suspended in water with vigorous stirring. The resulting suspension is again filtered and the filtercake is washed with water then diethylether before being dried in vacuo to provide 7-Cyclopentyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as a tan solid (1.30 g, 88%) MS (ESI) m/z=436.1 [M+H]+.

reactant | 5-Morpholin-4-yl-pyridin-2-ylamine | N1(CCOCC1)C=1C=CC(=NC1)N | C9H13N3O
reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 3.4 mmol, 1.00 g | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | cesium carbonate | 4.9 mmol, 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | heptane | 30 mL | CCCCCCC | C7H16
solvent | dioxan | 20 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.17 mmol, 38 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.17 mmol, 106 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 7-Cyclopentyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 1.30 g, 88% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCOCC2)N1C1CCCC1)C | C23H29N7O2
